US07732604B2
To a suspension of hydroxylamine hydrochloride in EtOH (150 mL) was added a suspension of NaOH (2.4 g, 59.7 mmol) in EtOH (25 mL). The reaction mixture was stirred at ambient temperature for 15 minutes. The precipitated sodium hydrochloride was filtered off. A solution of 1-quinolin-6-yl-ethanone (9.3 g, 54.25 mmol) in EtOH (150 mL) was added. The reaction solution was stirred for 16 hours at ambient temperature. EtOH was removed in vacuum to give 1-quinolin-6-yl-ethanone oxime (10.1 g, >99% yield).

reactant | hydroxylamine hydrochloride | Cl.NO
reactant | NaOH | 59.7 mmol, 2.4 g | [OH-].[Na+]
reactant | 1-quinolin-6-yl-ethanone | 54.25 mmol, 9.3 g | N1=CC=CC2=CC(=CC=C12)C(C)=O | C11H9NO
solvent | EtOH | 150 mL | CCO | C2H6O
solvent | EtOH | 25 mL | CCO | C2H6O
solvent | EtOH | 150 mL | CCO | C2H6O
product | 1-quinolin-6-yl-ethanone oxime | 10.1 g, >99% yield | N1=CC=CC2=CC(=CC=C12)C(C)=NO | C11H10N2O
